US08039487B2
A solution of 2-(2-diazo-acetyl)-piperidine-1-carboxylic acid tert-butyl ester (0.51 g, 2.0 mmol) in dry ethyl acetate (11 mL) was cooled to −45° C. and treated with a 33% solution of hydrobromic acid in acetic acid (0.24 mL), which was added dropwise over 45 min. The cold reaction mixture was diluted with tert-butyl methyl ether (34 mL) and left to warm to room temperature. The mixture was washed twice with saturated sodium hydrogenocarbonate (2*11 mL) and with saturated sodium chloride. The organic phase was dried over sodium sulphate and evaporated. The residue was purified by flash chromatography (heptane/ethyl acetate gradient) to yield 2-(2-bromo-acetyl)-piperidine-1-carboxylic acid tert-butyl ester (0.28 g, 45%) as a light yellow oil, MS (ISP): 306.1, 308.1 (M+H)+.

reactant | 2-(2-diazo-acetyl)-piperidine-1-carboxylic acid tert-butyl ester | 2.0 mmol, 0.51 g | C(C)(C)(C)OC(=O)N1C(CCCC1)C(C=[N+]=[N-])=O | C12H19N3O3
reactant | hydrobromic acid | Br | BrH
solvent | ethyl acetate | 11 mL | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 0.24 mL | C(C)(=O)O | C2H4O2
solvent | tert-butyl methyl ether | 34 mL | COC(C)(C)C | C5H12O
product | 2-(2-bromo-acetyl)-piperidine-1-carboxylic acid tert-butyl ester | 0.28 g, 45% | C(C)(C)(C)OC(=O)N1C(CCCC1)C(CBr)=O | C12H20BrNO3
